US06417192B1
5-(2-Benzyloxypyrimid-5-ylmethyl)-2-thiouracil
To a solution of benzyl alcohol (20 ml) in dry dimethylformamide (20 ml) was added sodium hydride ((60% in oil) 2.3 g) over 0.5 h under argon. A slurry of 2-methoxypyrimidyl thiouracil (3.6 g) in dry dimethylformamide (10 ml) was added in one portion and the solution heated to 80° C. for 2.5 h. After cooling, the solvent was removed under reduced pressure and the residue partitioned between diethyl ether and water. The aqueous layer was washed with further diethyl ether and then acidified to pH4 with glacial acetic acid. The solid so formed was filtered, washed with water and diethyl ether and dried in vacuo to give the desired material. 1H-NMR (d6-DMSO) δ 3.49 (2H, s), 5.36 (2H, s), 7.2-7.5 (6H, m), 8.50 (2H, s); MS (APCI+) found (M+1)=327; C16H14N4O2S requires 326.

reactant | benzyl alcohol | 20 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | 2-methoxypyrimidyl thiouracil | 3.6 g | COC1=NC=CC(=N1)N1C(NC=CC1=O)=S | C9H8N4O2S
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(2-Benzyloxypyrimid-5-ylmethyl)-2-thiouracil | C(C1=CC=CC=C1)OC1=NC=C(C=N1)CC=1C(NC(NC1)=S)=O | C16H14N4O2S
